* Simple 2-Port RLC Network - Linear S-Parameter (.LIN) Analysis Test
P1 IN 0 port=1 z0=50 AC 1
P2 OUT 0 port=2 z0=50 AC 1
R1 IN N1 100
L1 N1 N2 10mH
C1 N2 OUT 1uF

.PREPROCESS REPLACEGROUND FALSE
.AC DEC 20 1 100k
.LIN SPARCALC=1 FORMAT=TOUCHSTONE2 LINTYPE=S DATAFORMAT=RI FILE=lin-simple-with-step-01.s2p WIDTH=16 PRECISION=8
.PRINT AC FORMAT=RAW FILE=lin-simple-with-step-01.raw V(*) I(*)
.STEP L1 LIST 10mH 20mH 30mH

.END
